US09226501B2
(E)-2-Iodo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid
Per Buchwald, et al.; JACS, 2002, 124, 14844-14845, potassium iodide (KI, 273 mg, 1.64 mmol), CuI (31 mg, 0.16 mmol) and trans-N,N′-dimethylcyclohexane-1,2-diamine (catalytic amount) were added to a solution of (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid (400 mg, 0.82 mmol) in 1,4-dioxane (8 mL). The mixture in an Ace pressure tube was heated at 100° C. for 3 h. The reaction mixture was brought to ambient temperature and filtered through a Celite® pad. The filtrate was concentrated and residue was diluted with EtOAc and washed with 1N HCl followed by brine. The organic layer was dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography on silica eluting with 25% EtOAc in petroleum ether to afford the title compound as brown semi solid (240 mg, 55%): 1H NMR (400 MHz, DMSO-d6) δ 13.3 (bs, 1H), 8.21 (s, 1H), 7.91 (s, 2H), 7.71-7.64 (m, 2H), 7.01 (dd, J=15.6, 9.2 Hz, 1H), 6.75 (d, J=15.6 Hz, 1H), 4.85-4.81 (m, 1H); ESIMS m/z 532.8 ([M−H]−); IR (thinfilm) 3436, 1699, 1113, 750 cm−1.

reactant | potassium iodide | 1.64 mmol, 273 mg | [I-].[K+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid | 0.82 mmol, 400 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.16 mmol, 31 mg | [Cu]I
product | (E)-2-Iodo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid | IC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9Cl3F3IO2
